US04477447
To a solution of sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer) (1.4 g) in N,N-dimethylformamide (40 ml) was added 3-phthalidylideneethyl bromide (1.0 g), and the mixture was stirred at ambient temperature for 15 minutes. The reaction mixture was poured into a mixture of water and ethyl acetate (each 200 ml) with stirring. The separated organic solution was washed with 5% aqueous sodium bicarbonate and then water, followed by drying over magnesium sulfate. The resultant solution was evaporated to dryness to give 2-(3-phthalidylidene)ethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer) (1.5 g), mp 150° to 156° C. (dec.).

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 1.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)[O-])C1=O)=NOC.[Na+]
reactant | 3-phthalidylideneethyl bromide | 1.0 g | C1(=O)OC(C2=CC=CC=C12)=CCBr | C10H7BrO2
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-(3-phthalidylidene)ethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 1.5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC=C2OC(=O)C3=CC=CC=C23)C1=O)=NOC | C23H19N5O7S2
